US07776877B2
N-(2-Bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide
To a solution N-(2-bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-benzenesulfonamide (12.0 g, 35.0 mmol) and K2CO3 (24.0 g, 170 mmol) in 80 mL anhydrous THF was added chloromethyl methyl ether (4.0 mL, 52.7 mmol). The resultant heterogeneous solution was stirred for 60 minutes at ambient temperature and the solids were subsequently removed via filtration. The filtrate was then removed in vacuo and the residue was dissolved in EtOAc. The organics were washed with saturated Na2CO3, dried over MgSO4, and evaporated in vacuo to generate a brownish oil. The oil was finally triturated with hexanes and the resultant solid filtered to produce the desired product as a light yellowish solid (11.5 g, 86% yield): MS (ES) M+H expected 447.0, found 447.0.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-benzenesulfonamide | 35.0 mmol, 12.0 g | BrC1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)Cl | C15H16BrClN2O2S
reactant | K2CO3 | 170 mmol, 24.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloromethyl methyl ether | 52.7 mmol, 4.0 mL | COCCl | C2H5ClO
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | N-(2-Bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide | 11.5 g, 86% yield | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)COC)Cl | C17H20BrClN2O3S
